US06884774B2
To a suspension of 1-[4-[5-(4-iodophenyl)-1,3,4-thiadiazol-2-yl]phenyl]-4-(4-methylcyclohexyl)piperazine (2 g) in DMF (40 ml) was successively added ethyl formate (0.56 ml), dichlorobis(triphenylphosphine)palladium(II) (0.52 g) and 20% sodium ethoxide ethanol solution (4.43 ml) with stirring and the mixture was stirred at 40° C. for 2 hours. The reaction mixture was added diisopropyl ether (600 ml). The resulting precipitate was collected by filtration. The precipitate was dissolved THF (200 ml), insoluble materials were filtered off and solution was concentrated in vacuo. The resulting residue was washed with acetonitrile, and dried to give ethyl 4-[5-[4-[4-(4-methylcyclohexyl)-1-piperazinyl]phenyl]-1,3,4-thiadiazol-2-yl]benzoate (1.07 g).

reactant | 1-[4-[5-(4-iodophenyl)-1,3,4-thiadiazol-2-yl]phenyl]-4-(4-methylcyclohexyl)piperazine | 2 g | IC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C=C1)N1CCN(CC1)C1CCC(CC1)C | C25H29IN4S
reactant | ethyl formate | 0.56 ml | C(=O)OCC | C3H6O2
reactant | sodium ethoxide ethanol | 4.43 ml | C(C)O.[O-]CC.[Na+]
reactant | diisopropyl ether | 600 ml | C(C)(C)OC(C)C | C6H14O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.52 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 4-[5-[4-[4-(4-methylcyclohexyl)-1-piperazinyl]phenyl]-1,3,4-thiadiazol-2-yl]benzoate | 1.07 g | CC1CCC(CC1)N1CCN(CC1)C1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OCC)C=C1 | C28H34N4O2S
